US05561101
2-(2-(4,4-dimethyl-oxazolin-2-yl)-benzyl)-4,6-dichloropyrimidine (Table C, cpd. no. 61)
To a mixture of 1.25 g of 2-o-tolyl-4,4-dimethyl-oxazoline in 20 ml of ether under N2 atmosphere at -30° C. is added by syringe 4.2 ml of 1.6M n-butyllithium in hexane with stirring which is continued for 1 hr at -10° C. 0.98 g of 4,6-dichloropyrimidine in 20 ml of ether are added slowly to the reaction mixture which is then stirred at -45° to -30° C. for 30 min and at 0° C. for a further 30 min. The reaction mixture is quenched with acetic acid (0.4 ml) and water (0.1 ml) in THF (1.3 ml) and then treated with 1.5 g of 2,3-dichloro-5,6-dicyanobenzoquinone (DDQ) in 6 ml of THF. The temperature is brought to RT and the mixture stirred for 5 min after cooling to 0° C. 7.6 ml of 1N NaOH (cooled) are added and the mixture stirred for 5 min. The organic phase is separated and dried over Na2SO4 filtered and the solvent removed. Following chromatography (10/90 ether/hexane) the title product is obtained.

reactant | 2-o-tolyl-4,4-dimethyl-oxazoline | 1.25 g | C1(=C(C=CC=C1)C=1OCC(N1)(C)C)C | C12H15NO
reactant | n-butyllithium | 1.6M, 4.2 ml | C(CCC)[Li]
reactant | 4,6-dichloropyrimidine | 0.98 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ether | 20 ml | CCOCC | C4H10O
product | 2-(2-(4,4-dimethyl-oxazolin-2-yl)-benzyl)-4,6-dichloropyrimidine | CC1(N=C(OC1)C1=C(CC2=NC(=CC(=N2)Cl)Cl)C=CC=C1)C | C16H15Cl2N3O
